US04299845
Preparation of N,N'-BIS-[3,4-BIS-(TRIFLUOROMETHYL)PHENYL]METHYLTARTRONAMIDE
To a stirred suspension of 0.515 g of sodium hydride (57% in mineral oil) in 10 ml of dry dimethylformamide, under a nitrogen atmosphere, add dropwise a solution of 6.0 g N,N'-bis-[3,4-bis-(trifluoromethyl)phenyl]methylmalonamide dissolved in 35 ml of dry dimethylformamide. Upon cessation of gas evolution, cool the resulting orange solution to about 0°-5° C. and add dropwise a solution of 2.8 g dibenzoyl peroxide in 30 ml of dry dimethylformamide. Stir the resulting white suspension for 16 hours at room temperature under a nitrogen atmosphere, quench with aqueous sodium bisulfite and extract with ether. Wash the ether extract with water, dry over sodium sulfate and remove the ether in vacuo. Chromatograph the residue on 200 g of acidic alumina and elute with hexane/methylene chloride (3:2) to separate the product from unreacted starting material. Recrystallize this material from 1:2 benzene/hexane to give the title compound [Rf =0.55 (tlc-silica gel, 7:1 chloroform/hexane].

reactant | sodium hydride | 0.515 g | [H-].[Na+]
reactant | N,N'-bis-[3,4-bis-(trifluoromethyl)phenyl]methylmalonamide | 6.0 g | FC(C=1C=C(C=CC1C(F)(F)F)CNC(CC(=O)NCC1=CC(=C(C=C1)C(F)(F)F)C(F)(F)F)=O)(F)F | C21H14F12N2O2
reactant | dibenzoyl peroxide | 2.8 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 35 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N,N'-BIS-[3,4-BIS-(TRIFLUOROMETHYL)PHENYL]METHYLTARTRONAMIDE | FC(C=1C=C(C=CC1C(F)(F)F)CNC(C(O)C(=O)NCC1=CC(=C(C=C1)C(F)(F)F)C(F)(F)F)=O)(F)F | C21H14F12N2O3
